US04503063
2-(2,4-Dichlorophenyl)-1-(N-isopropylcarbamoyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
N,N'-Dicyclohexylacarbodiimide ("DCCD") (110 mg, 0.5 mmole) dissolved in dry dioxan (5 ml) was added to a solution of 1-carboxy-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (150 mg, 0.5 mmole) and N-hydroxysuccinimide ("NHS") (60 mg, 0.5 mmole) in dry dioxan (10 ml), and the mixture was stirred at room temperature for 2 hours. The precipitate was filtered off, washed with dry dioxan (10 ml) and the combined filtrate and washings were then added to a solution of isopropylamine (200 mg, 3.4 mmole) in dry dioxan (2 ml). The resultant solution was left at room temperature for 18 hours, diluted with ethyl acetate (100 ml), washed three times with saturated brine solution and dried over magnesium sulfate. Evaporation of the filtrate gave an oil which was then chromatorgraphed on "Kieselgel 60H" (Merck, Trade Mark) silica (10 g), eluting with methylene chloride containing 2% isopropyl alcohol and 0.2% aqueous ammonium hydroxide (Sp. gr. 0.880). The title compound was obtained after evaporation of appropriate fractions as a colorless solid, m.p. 105°-107° C.

reactant | DCCD | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 1-carboxy-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.5 mmole, 150 mg | C(=O)(O)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H11Cl2N3O3
reactant | N-hydroxysuccinimide | 0.5 mmole, 60 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | isopropylamine | 3.4 mmole, 200 mg | C(C)(C)N | C3H9N
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-Dichlorophenyl)-1-(N-isopropylcarbamoyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CC(NC(C)C)=O)(CN1N=CN=C1)O | C15H18Cl2N4O2
